### ISSUE TITLE
Gallery integrity: erdos-454 axiom pomerance_1979 is inconsistent (derives False)

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#41017]
## Integrity Issue — CRITICAL (inconsistent axiom)

**Proof**: erdos-454 (`Proofs/Erdos454Problem.lean`)
**Problem**: The axiom `pomerance_1979` contradicts a theorem proved in the same file, so the file's theory is inconsistent — `False` is derivable using only `pomerance_1979` + standard axioms (no `sorry`).

## Root cause

- `deviationENat n` (lines 108–111) truncates the deviation to `0` whenever `f n < 2·p_n`:
  ```lean
  noncomputable def deviationENat (n : ℕ) : ℕ∞ :=
    if (f n : ℤ) ≥ 2 * (nthPrime n : ℤ) then ((f n : ℤ) - 2 * (nthPrime n : ℤ)).toNat else 0
  ```
- The file **proves** `f_le_twice_nthPrime` (line 121): `f n ≤ 2 * nthPrime n` for `n > 0` — because `f n = ⨅ i : Fin n, …` includes the `i = 0` term `p_n + p_n = 2·p_n`.
- Therefore for every `n > 0`, `f n ≤ 2·p_n`, so the `if` either takes the `else` branch (`0`) or the `then` branch with `f n = 2·p_n` giving `(0).toNat = 0`. For `n = 0`, `deviationENat 0 = 0` directly. Hence **`deviationENat ≡ 0`**, so `limsup deviationENat atTop = 0`.
- But the axiom (line 146) asserts `pomerance_1979 : 2 ≤ limsup deviationENat atTop`, i.e. `2 ≤ 0`.

## Evidence (kernel-verified)

Adding a scratch module importing `Proofs.Erdos454Problem`:
```lean
theorem deviationENat_eq_zero (n : ℕ) : deviationENat n = 0 := by
  rcases Nat.eq_zero_or_pos n with h | h
  · subst h; simp [deviationENat, f, nthPrime, Nat.nth_prime_zero_eq_two]
  · have hle := f_le_twice_nthPrime n h
    simp only [deviationENat]; split
    · rename_i hge
      have : (f n : ℤ) = 2 * (nthPrime n : ℤ) := by
        have : (f n : ℤ) ≤ 2 * (nthPrime n : ℤ) := by exact_mod_cast hle
        omega
      simp [this]
    · rfl

theorem inconsistency : False := by
  have hzero : limsup deviationENat atTop = 0 := by
    have : deviationENat = fun _ => (0 : ℕ∞) := by funext n; exact deviationENat_eq_zero n
    rw [this]; simp
  exact absurd (pomerance_1979.trans_eq hzero) (by norm_num)
```
compiles cleanly, and:
```
#print axioms Erdos454.inconsistency
-- 'Erdos454.inconsistency' depends on axioms:
--   [propext, Classical.choice, Erdos454.pomerance_1979, Quot.sound]
```
No `sorryAx` — the contradiction comes purely from `pomerance_1979`.

## Consequence

The downstream theorems `limsup_pos` and `infinitely_many_deviation_ge_2` are "proved" from an inconsistent hypothesis: the set `{n | deviationENat n ≥ 2}` is in fact **empty**, yet `infinitely_many_deviation_ge_2` claims it is infinite. Anything is derivable.

The formalization mis-models the actual problem: Pomerance's `limsup(f(n) − 2p_n) ≥ 2` cannot hold when `f(n)` is the min **including** `i = 0` (which pins `f(n) ≤ 2p_n`). The real problem's `f` must exclude the `i = 0` term (or otherwise the deviation is bounded above by 0 by construction).

## Recommended Fix

Choose one of:
1. **Correct the model** so the deviation can be positive — e.g. define `f n = ⨅ i : {i // 0 < i ∧ i < n}, …` (exclude `i = 0`), so `f_le_twice_nthPrime` no longer holds and the axiom is no longer contradicted; then re-audit.
2. **Demote the axiom** to a `sorry`'d theorem or remove `pomerance_1979` and its dependent corollaries (`limsup_pos`, `infinitely_many_deviation_ge_2`) until the model is fixed. Keep the conjecture/negation defs as `Prop`.

Until fixed, `meta.json` must not present this as a sound axiomatized reduction; the axiom set is contradictory.

---
Discovered during gallery integrity audit. Inconsistency reproduced against Lean toolchain v4.31.0 / Mathlib rev 9a9483a.
